US04105652
Boc-Thr(Bzl)-Pro-OH (XI)
A suspension of H-Pro-OH (1.0 g, 8.69 mmol) in DMF (15 ml) was stirred with Et3N (2.44 ml) and Boc-Thr(Bzl)-OSu (3.88 g, 9.56 mmol) at 0° C for 1 hr and 25° C for 72 hrs. The reaction was acidified to pH 3 with acetic acid and worked up as described in Example 2 to produce a crystalline product from EtOAc and petroleum ether: 3.0 g (85.0%); mp 84°-88° C; [α]D25 -52.2° (c 1, CHCl3). Anal. Calcd for C21H30N2O6 (406.48): C, 62.05; H, 7.43; N, 6.89. Found: C, 62.29; H, 7.52; N, 6.86.

reactant | H-Pro-OH | 8.69 mmol, 1.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Et3N | 2.44 ml | CCN(CC)CC | C6H15N
reactant | Boc-Thr(Bzl)-OSu | 9.56 mmol, 3.88 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C20H26N2O7
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Boc-Thr(Bzl)-Pro-OH | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C21H30N2O6
